US08492582B2
Thioanisole (1.6 mL) and trifluoroacetic acid (5.2 mL) were added to tert-butyl 2-(2-(benzyloxy)-5-(furan-3-yl)benzamido)-4-phenylbenzoate (0.14 g), followed by stirring at room temperature for 4 hours. The solvent was evaporated under reduced pressure, and dioxane was added to the residue. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the residue. The solid substance was collected by filtration to obtain 0.020 g of 2-(5-(furan-3-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | Thioanisole | 1.6 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 5.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(2-(benzyloxy)-5-(furan-3-yl)benzamido)-4-phenylbenzoate | 0.14 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=COC=C1 | C35H31NO5
product | 2-(5-(furan-3-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.020 g | O1C=C(C=C1)C=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C24H17NO5
